US04036979
A sample of 6 grams of 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea is dissolved in 375 ml. of 50% aqueous acetic acid and 75 grams of ceric ammonium nitrate is added in portions over a 10 minute period with stirring at 25° C. to 35° C. The pale-orange solution is stirred for another 5 minutes and 100 ml. of water is added. The solution is extracted twice with ethyl acetate (450 ml. and 350 ml.) and the combined extracts are washed with 100 ml. of water. The organic extract is evaporated to dryness in vacuo and the brown residue is crystallized from methanol to afford 2.37 grams of 4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea, melting point 237° C. to 238° C. dec. Recrystallization from methanol affords purified product, melting point 245° C. to 246° C. dec.

reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea | 6 grams | S1C2=C(C=C1)C(CCC2)NC(=O)N | C9H12N2OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-ylurea | 2.37 grams | O=C1CCC(C2=C1SC=C2)NC(=O)N | C9H10N2O2S
